US07202245B2
4-Isopropylamino-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-8-carboxylic acid methyl ester
A solution of 2.0 g of (8-bromo-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxalin-4-yl)-isopropyl-amine, 0.54 g of Pd(II)acetate, 0.66 g of 1,3-bis-(diphenylphosphino)propane, and triethylamine (21 mL) in a 1.1/1.0 mixture of MeOH/DMSO was agitated under an atmosphere of CO (45 psi) at 75° C. for 96 hrs. After cooling to 23° C., the solution was diluted with water and methylene chloride and the resulting mixture filtered through diatomaceous earth. The filtrate was concentrated and the residue was dissolved in methylene chloride and washed with brine (2×). The title compound precipitated from the organic layer upon standing and was isolated by filtration. MS (M+H)+=302.3.

reactant | (8-bromo-1-methoxy-[1,2,4]triazolo[4,3-a]quinoxalin-4-yl)-isopropyl-amine | 2.0 g | BrC1=CC=C2N=C(C=3N(C2=C1)C(=NN3)OC)NC(C)C | C13H14BrN5O
reactant | 1,3-bis-(diphenylphosphino)propane | 0.66 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 21 mL | C(C)N(CC)CC | C6H15N
reactant | MeOH DMSO | CO.CS(=O)C
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-Isopropylamino-1-oxo-1,2-dihydro-[1,2,4]triazolo[4,3-a]quinoxaline-8-carboxylic acid methyl ester | COC(=O)C1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NC(C)C | C14H15N5O3
